US09023858B2
B) 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydrothieno[3,4-d]pyrimidin-4(1H)-one
Ethyl 4-isothiocyanatothiophene-3-carboxylate (1.1 g) and 4-(2,2,2-trifluoroethoxy)aniline (0.99 g) were dissolved in acetonitrile (40 ml), and the solution was heated under reflux for 1 hr, and allowed to be cooled. Potassium tert-butoxide (1.27 g) was dissolved in ethanol (15 ml), and the solution was poured into the reaction mixture at room temperature. The reaction mixture was heated under reflux for 10 min, allowed to be cooled, and concentrated under reduced pressure. The obtained brown residue was dissolved in ethanol (10 ml), and the solution was poured into 0.3M hydrochloric acid (35 ml) under ice-cooling. The resulting precipitate was collected by filtration, washed with water, and dissolved in tetrahydrofuran (40 ml). The solution was diluted with ethyl acetate (80 ml). This organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give a solid. This solid was washed with a mixed solvent of tetrahydrofuran/isopropyl ether (1/10) to give the title compound (1.59 g) as a solid.

reactant | Ethyl 4-isothiocyanatothiophene-3-carboxylate | 1.1 g | N(=C=S)C=1C(=CSC1)C(=O)OCC | C8H7NO2S2
reactant | 4-(2,2,2-trifluoroethoxy)aniline | 0.99 g | FC(COC1=CC=C(N)C=C1)(F)F | C8H8F3NO
reactant | Potassium tert-butoxide | 1.27 g | CC(C)([O-])C.[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydrothieno[3,4-d]pyrimidin-4(1H)-one | 1.59 g | S=C1N(C(C=2C(N1)=CSC2)=O)C2=CC=C(C=C2)OCC(F)(F)F | C14H9F3N2O2S2
